US08623885B2
6-Chloro-1,2,3,4-tetrahydro-2,7-naphthyridine hydrochloride (commercially obtained from Anichem, North Brunswick, N.J.) (2.0 g, 9.75 mmol) and TEA (2.72 mL, 19.50 mmol) were mixed in DCM (19.50 mL). Boc2O (2.34 g, 10.7 mmol) was added. The mixture was then stirred for 2 hours at room temperature. TLC indicated good consumption of the starting material and the formation of one major spot. There was also a less polar spot that was more faint. The reaction mixture was partitioned with DCM and water. The organic layer was dried with sodium sulfate, filtered, and concentrated. The residue was purified by flash column chromatography on silica gel eluting with 0% to 40% EtOAc in hexane to provide tert-butyl 6-chloro-3,4-dihydro-2,7-naphthyridine-2(1H)-carboxylate as a clear colorless oil (1.53 g). 1H NMR (500 MHz, CD2CCl2) δ 1.46 (9H, s), 2.80 (2H, t, J=6.0 Hz), 3.62 (2H, t, J=6.0 Hz), 4.55 (2H, s), 7.12 (1H, s), 8.13 (1H, s) ppm; LCMS m/z: 269 (M+1).

reactant | 6-Chloro-1,2,3,4-tetrahydro-2,7-naphthyridine hydrochloride | Cl.ClC=1C=C2CCNCC2=CN1
reactant | Boc2O | 10.7 mmol, 2.34 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 19.50 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 6-chloro-3,4-dihydro-2,7-naphthyridine-2(1H)-carboxylate | 1.53 g | ClC=1C=C2CCN(CC2=CN1)C(=O)OC(C)(C)C | C13H17ClN2O2
